US06894050B2
Preparation of Intermediate (3-Fluoro-benzyl)-carbamic acid tert-butyl ester (I-4a)
A mixture of 3-fluoro-benzylamine (0.25 mL, 2.19 mmol) and Di-tert-butyl dicarbonate (0.5 mL, 2.19 mmol) in THF (5 mL) was stirred at ambient temperature for 2 h. The reaction mixture was poured into H2O (15 mL) and extracted with EtOAc (2×20 mL). The organic layers were combined, washed with brine, dried (Na2SO4), and concentrated in vacuo to yield the title compound I-4a (493 mg). 1HNMR (CDCL3): δ 1.4(s, 9H), 4.3(d, 2H), 6.91-6.98 (m, 2H), 7.02-7.04 (d, 1H), 7.26-7.30 (m, 1H).

reactant | 3-fluoro-benzylamine | 2.19 mmol, 0.25 mL | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | Di-tert-butyl dicarbonate | 2.19 mmol, 0.5 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 15 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3-Fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=CC=C1)F)=O | C12H16FNO2
